US06562827B1
a) Ethyl 2-(Homopiperazin-1-yl)nicotinate
10.0 g of ethyl 2-chloronicotinate were heated to reflux for 2 h with 21.6 g of homopiperazine in 150 ml of ethanol. After removing the solvent, the residue was partitioned between NaCl solution and ethyl acetate and the aqueous phase was extracted several times with ethyl acetate. The combined organic phases were dried over magnesium sulfate and concentrated, 11.1 g (83%) of the product being obtained.

reactant | ethyl 2-chloronicotinate | 10.0 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
reactant | homopiperazine | 21.6 g | N1CCNCCC1 | C5H12N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl 2-(Homopiperazin-1-yl)nicotinate | 11.1 g, 83% | N1(CCNCCC1)C1=C(C(=O)OCC)C=CC=N1 | C13H19N3O2
